US06265426B1
3-(3-Azidomethyl-phenyl)-5-(4-methoxy-phenyl)-1H-[1,2,4]triazole
To an ethanolic suspension of 4-methoxybenzamidine hydrochloride salt (1:1) (2.01 g, 10.8 mmol, 1.5 eq.) was added sodium (331 mg, 14.4 mmol, 2 eq.) in ethanol (60 ml), stirring was then continued for 30 min. at r.t. 3-azidomethyl-benzoic acid hydrazide (1.37 g, 7.2 mmol) in ethanol was then added at 20° C. and the mixture heated at reflux for 18 hrs. Upon cooling the product mixture was filtered, the solvent was evaporated and the residue chromatographed over 20 g SiO2 (Merck 230-400 mesh) with CH2Cl2, affording a solid after evaporation of the solvent. The residue was dried under high vacuum overnight at 20° C. affording the title compound (1.25 g, 57% yield) as a white solid. MS: m/e=306 (M+).

reactant | 4-methoxybenzamidine hydrochloride salt | 10.8 mmol, 2.01 g, 1.5 eq. | Cl.COC1=CC=C(C(=N)N)C=C1
reactant | sodium | 14.4 mmol, 331 mg, 2 eq. | [Na] | Na
reactant | 3-azidomethyl-benzoic acid hydrazide | 7.2 mmol, 1.37 g | N(=[N+]=[N-])CC=1C=C(C(=O)NN)C=CC1 | C8H9N5O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 3-(3-Azidomethyl-phenyl)-5-(4-methoxy-phenyl)-1H-[1,2,4]triazole | 1.25 g, 57% yield | N(=[N+]=[N-])CC=1C=C(C=CC1)C1=NNC(=N1)C1=CC=C(C=C1)OC | C16H14N6O
